US08703805B2
To a solution of BH3 (1 M, 4 mL) in THF was added (4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-yl)(morpholino)-methanone (4.60 mg, 0.78 mmol) and the solution was stirred overnight at 20° C. MeOH was added to quench borane and solvent was evaporated to afford a crude, which was purified by column chromatography on silica gel eluting with MeOH-DCM (1:19) to afford 4-((4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-yl)methyl)morpholine (0.2 g). 1H-NMR (CDCl3): δ 8.25 (m, 1H), 7.93 (m, 1H), 7.72 (m, 1H), 7.60 (m, 1H), 7.55 (m, 1H), 7.49-7.39 (m, 3H), 7.33-7.26 (m, 2H), 7.18 (m, 1H), 6.85 (s, 1H), 3.58 (m, 4H), 3.16 (s, 3H), 3.07 (s, 3H), 2.14 (m, 4H). MS(ES): 576 [M+H]+.

reactant | (4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-yl)(morpholino)-methanone | 0.78 mmol, 4.60 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC(=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)N1CCOCC1)C(F)(F)F | C28H23ClF3N3O4S
reactant | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-((4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-3′-(methylsulfonyl)biphenyl-2-yl)methyl)morpholine | 0.2 g | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC(=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C)CN1CCOCC1)C(F)(F)F | C28H25ClF3N3O3S
